US08809342B2
Step E: (+/−)-methyl 6-[(cyclohexyl{2-[4-(trifluoromethyl)phenyl]pyrimidin-5-yl}methyl)amino]nicotinate
A mixture of crude (+/−)-1-cyclohexyl-1-{2-[4-(trifluoromethyl)phenyl]pyrimidin-5-yl}methanamine (405 mg, 1.21 mmol), methyl 6-fluoronicotinate (225 mg, 1.45 mmol), and potassium carbonate (501 mg, 3.62 mmol) in N,N-dimethylformamide (4.2 ml) was heated to 120° C. for 12 hours. The reaction mixture was diluted with water to precipitate a crude solid that was collected by filtration. The crude material was purified via ISCO MPLC (SiO2, 0-50% ethyl acetate in heptane) to yield the product (0.486 g, 86%) as a solid. 1H NMR (400 MHz, CDCl3, δ): 8.78 (s, 2H), 8.70 (d, J=1.6 Hz, 1H), 8.55 (d, J=8.2 Hz, 2H), 7.94 (dd, J=8.8, 2.0 Hz, 1H), 7.74 (d, J=8.2 Hz, 2H), 6.31 (d, J=8.8 Hz, 1H), 5.38 (d, J=7.0 Hz, 1H), 4.76 (t, J=6.9 Hz, 1H), 3.84 (s, 3H), 1.97 (d, J=12.5 Hz, 1H), 1.59-1.88 (m, 5H), 1.04-1.34 (m, 5H). MS (M+1): 471.2.

reactant | (+/−)-1-cyclohexyl-1-{2-[4-(trifluoromethyl)phenyl]pyrimidin-5-yl}methanamine | 1.21 mmol, 405 mg | C1(CCCCC1)C(N)C=1C=NC(=NC1)C1=CC=C(C=C1)C(F)(F)F | C18H20F3N3
reactant | methyl 6-fluoronicotinate | 1.45 mmol, 225 mg | FC1=NC=C(C(=O)OC)C=C1 | C7H6FNO2
reactant | potassium carbonate | 3.62 mmol, 501 mg | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 4.2 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | (+/−)-methyl 6-[(cyclohexyl{2-[4-(trifluoromethyl)phenyl]pyrimidin-5-yl}methyl)amino]nicotinate | 0.486 g, 86% | C1(CCCCC1)C(C=1C=NC(=NC1)C1=CC=C(C=C1)C(F)(F)F)NC1=NC=C(C(=O)OC)C=C1 | C25H25F3N4O2
